US04272437
3-Azidopentanoyl chloride
3-Azidopentanoic acid (1.72 g, 12.2 mmol) was dissolved in oxalyl chloride (1.49 ml, 2.22 g, 17.5 mmol) and to this stirring solution was added one drop of DMF. The mixture was stirred at room temperature for 30 min and heated at 80° C. for 40 min. The residue was distilled under vacuum, bp 33° C. (0.1 mm), to give a colorless oil (936 mg, 48.2%); ir (neat) νmax : 2100 (N3), and 1795 cm-1 (C=O of acid chloride); 1Hmr (CDCl3) δ: 1.03 (3H, t), 1.60 (2H, m), 3.03 (2H, d) and 3.80 ppm (H, m). Anal. calcd for C5H8N3Cl: C 37.16, H 4.99; found: C 37.40, H 4.92.

reactant | 3-Azidopentanoic acid | 12.2 mmol, 1.72 g | N(=[N+]=[N-])C(CC(=O)O)CC | C5H9N3O2
reactant | oxalyl chloride | 17.5 mmol, 1.49 ml, 2.22 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 3-Azidopentanoyl chloride | 936 mg, 48.2% | N(=[N+]=[N-])C(CC(=O)Cl)CC | C5H8ClN3O
